US05750531
Step 4: 6-Ethyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(1.1 ml, 10.2 mmol) was added to a mixture solution of 6-ethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(2.0 g, 7.0 mmol) and dimethylformamide(10 ml), 1.1 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 10.2 mmol, 1.1 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-ethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 7.0 mmol, 2.0 g | C(C)C1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)Cl | C16H18ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Ethyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 1.1 g, Yield: 38% | Cl.C(C)C1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)NC1=C(C=C(C=C1)F)C | InChI=1S/C23H25FN4.ClH/c1-4-19-14-22(26-21-10-9-18(24)13-15(21)2)27-23(25-19)28-12-11-17-7-5-6-8-20(17)16(28)3;/h5-10,13-14,16H,4,11-12H2,1-3H3,(H,25,26,27);1H
